US07262196B2
DBE (345 μL, 4.0 mmol) was added to a suspension of Zn dust (2.62 g, 40.0 mmol) in anhydrous THF (4 mL). The mixture was heated to boiling, then allowed to cool down to 20° C. This process was repeated three times, then the mixture was stirred at 20° C. for 2 h, before being treated with TMSCl (380 μL, 3.0 mmol). Stirring was continued for 1.5 h, then a solution of (Z)-methyl 3-cyclopentyl-2-iodoacrylate (2.52 g, 9.0 mmol) in anhydrous THF (8 mL) was added over 3 min. The mixture was stirred at 40° C. for 2 h, before being stirred at 20° C. for 16 h, and finally allowed to stand for 4 h. In a separate reaction vessel, a solution of PPh3 (315 mg, 1.2 mmol) and Pd2(dba)3 (150 mg, 0.5 mmol) in anhydrous THF (15 mL) was stirred for 2 h at 20° C., before being treated with a solution of 5-bromo-2-methylsulfanylpyridine (2.76 g, 13.5 mmol) in anhydrous THF (10 mL). The solution of the freshly prepared organozinc compound was then added via cannula, and the mixture was stirred at 40° C. for 68 h. Solvent evaporation and column chromatography (4:1 IH-Et2O) yielded methyl 3-cyclopentyl-2-(6-methylsulfanylpyridin-3-yl)acrylate: m/z (ES+)=278.1 [M+H]+. Step 2: A solution of this compound (1.12 g, 4.0 mmol) in MeOH (5.5 mL) was treated with 1M NaOH (8.9 mL, 8.9 mmol). The mixture was heated at 65° C. for 3 h, before being stirred at 20° C. for 16 h. The MeOH was removed under reduced pressure, then H2O (10 mL) and 1M NaOH (10 mL) were added. The resulting mixture was washed with Et2O (25 mL), before being acidified with 2M HCl to adjust the pH to 1. The suspension produced was extracted with EtOAc (2×50 mL), then the extracts were washed with brine (20 mL), before being dried (MgSO4). Filtration, solvent evaporation, and recrystallisation (EtOAc-IH) furnished the title compound: m/z (ES+)=264.1 [M+H]+.

reactant | TMSCl | 3.0 mmol, 380 μL | C[Si](C)(C)Cl | C3H9ClSi
reactant | (Z)-methyl 3-cyclopentyl-2-iodoacrylate | 9.0 mmol, 2.52 g | C1(CCCC1)\C=C(\C(=O)OC)/I | C9H13IO2
reactant | PPh3 | 1.2 mmol, 315 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 5-bromo-2-methylsulfanylpyridine | 13.5 mmol, 2.76 g | BrC=1C=CC(=NC1)SC | C6H6BrNS
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Zn | 40.0 mmol, 2.62 g | [Zn] | Zn
catalyst | Pd2(dba)3 | 0.5 mmol, 150 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 3-cyclopentyl-2-(6-methylsulfanylpyridin-3-yl)acrylate | C1(CCCC1)C=C(C(=O)OC)C=1C=NC(=CC1)SC | C15H19NO2S
